US06900215B2
A warm solution of 5′-amino-3′-fluorobiphenyl-2-carbonitrile (4.5 g, 21 mmol) in 1,4-dioxane (20 ml) was treated with 48% hydrobromic acid (100 ml) and the resulting suspension stirred and cooled to 3° C. (internal temperature). A solution of sodium nitrite (1.7 g, 24 mmol) in water (4 ml) was then added dropwise over 20 min keeping the internal temperature <5° C. Stirring at <5° C. was continued for 2 h before adding a cooled (5° C.) solution of copper(I) bromide (9.1 g, 3 mmol) in 48% hydrobromic acid (30 ml). The resulting purple reaction mixture was stirred at 5° C. for 10 min then warmed to 50° C. for 20 min. The reaction was diluted with ice-cold water (500 ml) and extracted with ethyl acetate (2×200 ml). The organics were combined, washed with 5% aqueous sodium sulphite and saturated aqueous ammonium chloride, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification on silica, eluting with isohexane (containing 1% methanol) on a gradient of ethyl acetate (5-15%) afforded 5′-bromo-3′-fluorobiphenyl-2-carbonitrile as a white solid (5.52 g, 94%).

reactant | 5′-amino-3′-fluorobiphenyl-2-carbonitrile | 21 mmol, 4.5 g | NC=1C=C(C=C(C1)C=1C(=CC=CC1)C#N)F | C13H9FN2
reactant | sodium nitrite | 24 mmol, 1.7 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | hydrobromic acid | 100 ml | Br | BrH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
catalyst | copper(I) bromide | 3 mmol, 9.1 g | [Cu]Br
product | 5′-bromo-3′-fluorobiphenyl-2-carbonitrile | 5.52 g, 94% | BrC=1C=C(C=C(C1)C=1C(=CC=CC1)C#N)F | C13H7BrFN
